US06013658
((1R)-2-(2-Naphthyl)-1-((1R)-2-(2-naphthyl)-1-(1-phenethyl-1H-tetrazol-5-yl)ethylcarbamoyl)ethyl)carbamic acid tert-butyl ester (215 mg; 0.34 mmol) was dissolved in a mixture of methylene chloride (4 ml) and trifluoroacetic acid (2 ml) and stirred at room temperature for 30 min. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate and aqueous sodium hydrogencarbonate (10%; 10 ml). The phases were separated, the organic phase was dried (Magnesium sulfate) and the solvent removed in vacuo. The residue was chromatographed on silica (3×20 cm) using ethyl acetate as eluent to afford 152 mg of (2R)-2-amino-3-(2-naphthyl)-N-((1R)-2-(2-naphthyl)-1-(1-phenethyl-1H-tetrazol-5-yl)ethyl)propionamide.

reactant | ((1R)-2-(2-Naphthyl)-1-((1R)-2-(2-naphthyl)-1-(1-phenethyl-1H-tetrazol-5-yl)ethylcarbamoyl)ethyl)carbamic acid tert-butyl ester | 0.34 mmol, 215 mg | C(C)(C)(C)OC(N[C@H](CC1=CC2=CC=CC=C2C=C1)C(N[C@H](CC1=CC2=CC=CC=C2C=C1)C1=NN=NN1CCC1=CC=CC=C1)=O)=O | C39H40N6O3
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2R)-2-amino-3-(2-naphthyl)-N-((1R)-2-(2-naphthyl)-1-(1-phenethyl-1H-tetrazol-5-yl)ethyl)propionamide | 152 mg | N[C@@H](C(=O)N[C@H](CC1=CC2=CC=CC=C2C=C1)C1=NN=NN1CCC1=CC=CC=C1)CC1=CC2=CC=CC=C2C=C1 | C34H32N6O
